US08648099B2
b) 5-(4-Chloro-phenyl)-6-cyclobutoxy-3-pyridinecarboxylic acid
The title compound was synthesized in analogy to Example 9a using 5-bromo-6-cyclobutoxy-3-pyridinecarboxylic acid and B-(4-chlorophenyl)-boronic acid (CAN 1679-18-1) as starting materials; MS (ESI): 302.2 (M−H)−.

reactant | 5-bromo-6-cyclobutoxy-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1OC1CCC1)C(=O)O | C10H10BrNO3
reactant | B-(4-chlorophenyl)-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | 5-(4-Chloro-phenyl)-6-cyclobutoxy-3-pyridinecarboxylic acid | ClC1=CC=C(C=C1)C=1C=C(C=NC1OC1CCC1)C(=O)O | C16H14ClNO3
